** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/switched_cap_cell.sch
**.subckt switched_cap_cell vctrl VDD VSS r2 r1
*.iopin r1
*.iopin r2
*.iopin VDD
*.iopin VSS
*.iopin vctrl
XC1 net1 VSS cap_cmomi w=30e-6 l=30e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
x2 VSS net1 r1 VDD VDD VSS transmission_gate
x6 VSS net1 r2 VDD VDD VSS transmission_gate
x5 VDD vco_clk vctrl VSS net4 vco
vselA net2 VSS 0
vselB net3 VSS 3.3
**.ends

* expanding   symbol:  transmission_gate.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/transmission_gate.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/transmission_gate.sch
.subckt transmission_gate vctrl vin vout nvctrl VDD VSS
*.iopin vin
*.iopin vout
*.ipin vctrl
*.ipin nvctrl
*.iopin VDD
*.iopin VSS
XM3 vout vctrl vin VSS sg13_hv_nmos w={tg_ngate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
XM4 vout nvctrl vin VDD sg13_hv_pmos w={tg_pgate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
**** begin user architecture code


.param tg_ch_len=1u
.param tg_ngate_w=1u
.param tg_pgate_w=5u
.param tg_ng=40


**** end user architecture code
.ends


* expanding   symbol:  osc.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/osc.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/osc.sch
.subckt osc VDD out1 ictrl VSS start out2
*.iopin VSS
*.iopin VDD
*.iopin out2
*.iopin out1
*.iopin start
*.iopin ictrl
XM3 out1 ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM2 net1 ictrl VDD VDD sg13_hv_pmos w=1u l=2.0u ng=1 m=1 mm_ok=1
XM4 start ictrl VDD VDD sg13_hv_pmos w=1.0u l=2.0u ng=1 m=1 mm_ok=1
XM5 out2 ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XM6 ictrl ictrl VDD VDD sg13_hv_pmos w=10.0u l=2.0u ng=1 m=1 mm_ok=1
XC1 net1 out1 cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XC2 out2 start cap_cmomi w=10e-6 l=10e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM8 out1 start VSS VSS sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM1 start start VSS VSS sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
XM12 out2 net1 VSS VSS sg13_hv_nmos w=3u l=0.45u ng=1 m=1 mm_ok=1
XM11 net1 net1 VSS VSS sg13_hv_nmos w=1u l=2u ng=1 m=1 mm_ok=1
**** begin user architecture code


.ic v(out1)=0 v(out2)=3.3


**** end user architecture code
.ends


* expanding   symbol:  pulse_shaper.sym # of pins=7
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/pulse_shaper.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/pulse_shaper.sch
.subckt pulse_shaper out1 nout1 VDD in VSS out2 nout2
*.opin out1
*.opin nout1
*.opin out2
*.opin nout2
*.ipin in
*.iopin VSS
*.iopin VDD
XM2 net1 in VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 net1 in VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
x4 VDD net3 nout2 VSS hv_inverter_40u
x7 VDD net1 net3 VSS low_th_inverter
x8 VDD net1 net2 VSS high_th_inverter
x9 VDD net2 out1 VSS hv_inverter_40u
x10 VDD out1 nout1 VSS hv_inverter_40u
x11 VDD nout2 out2 VSS hv_inverter_40u
**** begin user architecture code


.param w   = 0.3u
.param ng  = 1
.param n_ng = ng
.param n_w = {w*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {1*w*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends


* expanding   symbol:  hv_mux4.sym # of pins=9
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_mux4.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_mux4.sch
.subckt hv_mux4 selA VDD out VSS in3 in1 in4 in2 selB
*.ipin in1
*.iopin VDD
*.iopin VSS
*.opin out
*.ipin in2
*.ipin selA
*.ipin in3
*.ipin in4
*.ipin selB
x3 VDD selA net9 VSS hv_inverter_40u
x1 VDD net2 out net1 VSS net3 net4 hv_nor4
x2 VDD in1 net2 net6 VSS hv_nor
x4 VDD in2 net1 net7 VSS hv_nor
x5 VDD in3 net3 net8 VSS hv_nor
x6 VDD in4 net4 net5 VSS hv_nor
x7 VDD selA net5 selB VSS hv_nand
x9 VDD net9 net7 selB VSS hv_nand
x10 VDD selB net10 VSS hv_inverter_40u
x11 VDD selA net8 net10 VSS hv_nand
x8 VDD net9 net6 net10 VSS hv_nand
.ends


* expanding   symbol:  vco.sym # of pins=5
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/vco.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/vco.sch
.subckt vco VDD out vctrl VSS nout
*.iopin VSS
*.iopin VDD
*.iopin nout
*.iopin out
*.iopin vctrl
**** begin user architecture code


.ic v(vc)=1.65


**** end user architecture code
XC1 vc VSS cap_cmomi w=30e-6 l=30e-6 mmin=1 mmax=4 feed=double subblock=0 m=1 mm_ok=1
XM4 vc out 5uA- VSS sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
x1 VDD s out nout r VSS hv_rs-ff
**** begin user architecture code


.param cm_n_w = 6u
.param cm_n_l = 5u
.param cm_p_w = 10u
.param cm_p_l = 2u

.param inv_ng = 1
.param inv_n_w = 2u
.param inv_n_l = 0.45u
.param inv_p_w = 6.5u
.param inv_p_l = 0.4u


**** end user architecture code
XM6 vc out 5uA+ VDD sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
x5 net2 vc net9 VDD 40uA- VSS comp_pmos
x4 VDD net3 VSS current_reference_40uA
XM7 s net1 VSS VSS sg13_hv_nmos w=inv_n_w l=inv_n_l ng=inv_ng m=1 mm_ok=1
XM8 s net1 VDD VDD sg13_hv_pmos w=inv_p_w l=inv_p_l ng=inv_ng m=1 mm_ok=1
XM9 r net2 VSS VSS sg13_hv_nmos w=inv_n_w l=inv_n_l ng=inv_ng m=1 mm_ok=1
XM10 r net2 VDD VDD sg13_hv_pmos w=inv_p_w l=inv_p_l ng=inv_ng m=1 mm_ok=1
x7 net1 net8 vc VDD 40uA+ VSS comp_nmos
XM11 net3 net3 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM12 40uA+ net3 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM13 net4 net3 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM14 net4 net4 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM15 40uA- net4 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM16 net5 net4 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM17 net5 net5 VDD VDD sg13_hv_pmos w=4*cm_p_w l=cm_p_l ng=4 m=1 mm_ok=1
XM18 10uA+ net5 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM19 net6 net5 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM20 net6 net6 VSS VSS sg13_hv_nmos w=2*cm_n_w l=cm_n_l ng=2 m=1 mm_ok=1
XM21 5uA- net6 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM22 net7 net6 VSS VSS sg13_hv_nmos w=cm_n_w l=cm_n_l ng=1 m=1 mm_ok=1
XM23 net7 net7 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
XM24 5uA+ net7 VDD VDD sg13_hv_pmos w=cm_p_w l=cm_p_l ng=1 m=1 mm_ok=1
x2 10uA+ net8 VDD vctrl VSS net9 voltage_mirror
.ends


* expanding   symbol:  hv_inverter_40u.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_40u.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_inverter_40u.sch
.subckt hv_inverter_40u VDD in out VSS
*.ipin in
*.iopin VDD
*.iopin VSS
*.opin out
XM2 out in VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 out in VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
.ends


* expanding   symbol:  low_th_inverter.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/low_th_inverter.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/low_th_inverter.sch
.subckt low_th_inverter VDD vin vout VSS
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
XM1 vout vin VSS VSS sg13_hv_nmos w={n_ng*n_w} l={n_l} ng={n_ng} m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_hv_pmos w={p_ng*p_w} l={p_l} ng={n_ng} m=1 mm_ok=1
**** begin user architecture code


.param n_ng = 2
.param n_w = 1u
.param n_l = 0.45u
.param p_ng = 2
.param p_w = 1u
.param p_l = 0.4u


**** end user architecture code
.ends


* expanding   symbol:  high_th_inverter.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/high_th_inverter.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/high_th_inverter.sch
.subckt high_th_inverter VDD vin vout VSS
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
**** begin user architecture code


.param n_ng = 2
.param n_w = 1u
.param n_l = 0.45u
.param p_ng = 2
.param p_w = 10u
.param p_l = 0.4u


**** end user architecture code
XM1 vout vin VSS VSS sg13_hv_nmos w={n_ng*n_w} l={n_l} ng={p_ng} m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_hv_pmos w={p_ng*p_w} l={p_l} ng={p_ng} m=1 mm_ok=1
.ends


* expanding   symbol:  hv_nor4.sym # of pins=7
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nor4.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nor4.sch
.subckt hv_nor4 VDD in1 out in2 VSS in3 in4
*.ipin in1
*.iopin VDD
*.iopin VSS
*.opin out
*.ipin in2
*.ipin in3
*.ipin in4
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
XM2 out in2 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 net3 in1 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
XM1 out in1 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM4 out in4 net1 VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
XM5 out in3 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM6 out in4 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM7 net1 in4 net2 VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
XM8 net2 in4 net3 VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
.ends


* expanding   symbol:  hv_nor.sym # of pins=5
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nor.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nor.sch
.subckt hv_nor VDD in1 out in2 VSS
*.ipin in1
*.iopin VDD
*.iopin VSS
*.opin out
*.ipin in2
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
XM2 out in2 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 net1 in1 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
XM1 out in1 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM4 out in2 net1 VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
.ends


* expanding   symbol:  hv_nand.sym # of pins=5
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nand.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_nand.sch
.subckt hv_nand VDD in1 out in2 VSS
*.ipin in1
*.iopin VDD
*.iopin VSS
*.opin out
*.ipin in2
**** begin user architecture code


.param w   = 10u
.param ng  = 4
.param n_ng = ng
.param n_w = {3u*n_ng}
.param n_l = 0.45u
.param p_ng = ng
.param p_w = {10u*p_ng}
.param p_l = 0.4u


**** end user architecture code
XM2 out in1 net1 VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM3 out in2 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
XM1 net1 in2 VSS VSS sg13_hv_nmos w={n_w} l={n_l} ng={ng} m=1 mm_ok=1
XM4 out in1 VDD VDD sg13_hv_pmos w={p_w} l={p_l} ng={ng} m=1 mm_ok=1
.ends


* expanding   symbol:  hv_rs-ff.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_rs-ff.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/hv_rs-ff.sch
.subckt hv_rs-ff VDD nS Q nQ nR VSS
*.ipin nS
*.iopin VDD
*.iopin VSS
*.opin Q
*.ipin nR
*.opin nQ
x4 VDD nS Q nQ VSS hv_nand
x5 VDD Q nQ nR VSS hv_nand
.ends


* expanding   symbol:  comp_pmos.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_pmos.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_pmos.sch
.subckt comp_pmos out - + VDD Ibias VSS
*.iopin VDD
*.iopin VSS
*.ipin Ibias
*.opin out
*.ipin +
*.ipin -
**** begin user architecture code


.param n_w = 1.2u
.param n_l = 1.5u
.param p_w = 2u
.param p_l = 0.4u
.param bcm = 1


**** end user architecture code
XM9 net1 Ibias VDD VDD sg13_hv_pmos w=bcm*p_w l=p_l ng=1 m=1 mm_ok=1
XM10 out Ibias VDD VDD sg13_hv_pmos w=bcm*p_w l=p_l ng=1 m=1 mm_ok=1
XM11 Ibias Ibias VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM12 net3 + net1 VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM13 net2 - net1 VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM14 net3 net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM15 net2 net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM16 out net3 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  current_reference_40uA.sym # of pins=3
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/current_reference_40uA.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/current_reference_40uA.sch
.subckt current_reference_40uA VDD iout VSS
*.iopin VSS
*.iopin VDD
*.iopin iout
XM8 net2 net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM6 net2 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM1 net1 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM3 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XR2 net3 net4 VSS rppd w=2e-6 l=21.9e-6 m=1 b=0 mm_ok=1
XM2 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM4 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM5 net1 net2 net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM7 iout net2 VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XR3 net4 VSS VSS rsil w=0.5e-6 l=365e-6 m=1 mm_ok=1
**** begin user architecture code


.param n_w = 6u
.param n_l = 5u
.param p_w = 10u
.param p_l = 2u


**** end user architecture code
.ends


* expanding   symbol:  comp_nmos.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_nmos.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/comp_nmos.sch
.subckt comp_nmos out - + VDD Ibias VSS
*.iopin VDD
*.iopin VSS
*.ipin -
*.ipin +
*.ipin Ibias
*.opin out
XM8 net2 + net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM6 net1 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM1 net2 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM3 net1 - net3 VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
**** begin user architecture code


.param n_w = 1.2u
.param n_l = 1.5u
.param p_w = 2u
.param p_l = 0.4u


**** end user architecture code
XM2 out net2 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM4 net3 Ibias VSS VSS sg13_hv_nmos w=2*n_w l=n_l ng=1 m=1 mm_ok=1
XM5 out Ibias VSS VSS sg13_hv_nmos w=2*n_w l=n_l ng=1 m=1 mm_ok=1
XM7 Ibias Ibias VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  voltage_mirror.sym # of pins=6
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/voltage_mirror.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/voltage_mirror.sch
.subckt voltage_mirror Ibias nout VDD in VSS out
*.iopin VDD
*.iopin VSS
*.ipin in
*.opin out
*.opin nout
*.ipin Ibias
**** begin user architecture code


.param n_w = 6u
.param n_l = 5u
.param p_w = 10u
.param p_l = 2u


**** end user architecture code
XM1 Ibias Ibias VSS VSS sg13_hv_nmos w=1.9*n_w l=n_l ng=2 m=1 mm_ok=1
XR1 in Ibias GND rhigh w=0.5e-6 l=34e-6 m=1 b=0 mm_ok=1
XM2 net1 net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM3 nout Ibias VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XM4 out net1 VDD VDD sg13_hv_pmos w=p_w l=p_l ng=1 m=1 mm_ok=1
XM5 net1 Ibias VSS VSS sg13_hv_nmos w=n_w l=n_l ng=1 m=1 mm_ok=1
XR2 VDD nout GND rhigh w=0.5e-6 l=34e-6 m=1 b=0 mm_ok=1
XR3 out VSS GND rhigh w=0.5e-6 l=34e-6 m=1 b=0 mm_ok=1
.ends

.end
